US04663465
100 ml of acetone are added to a solution of 35.3 g (0.882 mol) of sodium hydroxide in 317 ml of water. Then, at 25° C., 26.5 g (0.083 mol) of 4-bromo-2,2-dimethyl-1-chloro-1-(4-methoxyphenyl)-3-butanone are added dropwise. The mixture is stirred at 25° C. for a further 12 hours, poured onto water and extracted with methylene chloride. The aqueous phase is acidified and extracted again. 12.6 g (69% of theory) of 2,2-dimethyl-3-(4-methoxyphenyl)cyclopropanecarboxylic acid of melting point 115° C. are obtained.

reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 0.882 mol, 35.3 g | [OH-].[Na+]
reactant | 4-bromo-2,2-dimethyl-1-chloro-1-(4-methoxyphenyl)-3-butanone | 0.083 mol, 26.5 g | BrCC(C(C(C1=CC=C(C=C1)OC)Cl)(C)C)=O | C13H16BrClO2
reactant | water | 317 ml | O | H2O
product | 2,2-dimethyl-3-(4-methoxyphenyl)cyclopropanecarboxylic acid | 12.6 g, 69% | CC1(C(C1C1=CC=C(C=C1)OC)C(=O)O)C | C13H16O3
